US05554607
3-(2,4-Dichlorophenyl)-1-ethyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 16 using 20.4 g of 2,3-dichlorophenyl-isothiocyanate, 18.4 g of N-ethyl glycine, 20.2 g of triethyl amine, and 300 mL of chloroform. Purification was achieved by flash chromatography on silica gel (20% ethyl acetate in hexane) The title compound (8.8 g) was obtained as a light peach solid, m.p. 144°-146° C. Anal. Calcd. for. C11H10Cl2N2O S: C, 45.69; H, 3.49; N, 9.69. Found: C, 45.81; H, 3.40; N, 9.58. Mass spectrum (CI, [M+H]+) m/z 289/29 1/293.

reactant | 2,3-dichlorophenyl-isothiocyanate | 20.4 g | ClC1=C(C=CC=C1Cl)N=C=S | C7H3Cl2NS
reactant | N-ethyl glycine | 18.4 g | C(C)NCC(=O)O | C4H9NO2
reactant | triethyl amine | 20.2 g | C(C)N(CC)CC | C6H15N
reactant | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,4-Dichlorophenyl)-1-ethyl-2-thioxo-imidazolidin-4-one | ClC1=C(C=CC(=C1)Cl)N1C(N(CC1=O)CC)=S | C11H10Cl2N2OS
